US04582837
5-Methylaminocarbonyl-2-(2'-methoxy-4'-methanesulfonylaminophenyl)-benzimidazole
One and one-half grams (4.0 mmol) of 5-methoxycarbonyl-2-(2'-methoxy-4'-methanesulfonylamino-phenyl)-benzimidazole and 10 ml of methylamine were heated for four hours to 120° C. in a steel canister. Then, excess methylamine was evaporated off, and the residue was dissolved in a small amount of water and neutralized with concentrated hydrochloric acid. After the solution was evaporated, the crude product obtained was purified by chromatography (150 gm of silica gel; eluant: methylene chloride with 10% ethanol).

reactant | 5-methoxycarbonyl-2-(2'-methoxy-4'-methanesulfonylamino-phenyl)-benzimidazole | 4.0 mmol | COC(=O)C1=CC2=C(N=C(N2)C2=C(C=C(C=C2)NS(=O)(=O)C)OC)C=C1 | C17H17N3O5S
reactant | methylamine | 10 ml | CN | CH5N
product | 5-Methylaminocarbonyl-2-(2'-methoxy-4'-methanesulfonylaminophenyl)-benzimidazole | Yield: 67.0% | CNC(=O)C1=CC2=C(N=C(N2)C2=C(C=C(C=C2)NS(=O)(=O)C)OC)C=C1 | C17H18N4O4S
